US05726165
(R)-5-[N-(t-Butyloxycarbonyl)-2-aminopropyl]-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester
A solution of (R)-2-(3,4-dihydroxyphenyl)propylcarbamic acid, t-butyl ester. (1.07 g, 4 mMol) in acetone (25 ml) containing potassium carbonate (3 equiv, 1.66 g, 12 mMol) was stirred at 60° C. under an argon atmosphere for 1 hour. After cooling to ambient temperature, a solution of diethyl dibromomalonate (1.27 g, 4 mMol) in acetone (7 ml) was added and the reaction was stirred at ambient temperature for 18 hours. The suspension was filtered and the residue was washed with ethyl acetate. The filtrates were combined, evaporated and the residue was partitioned between ethyl acetate (200 ml) and dilute hydrochloric acid (100 ml, pH5). The organic layer was separated, washed with water (2×100 ml) and brine (100 ml), dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluting with 25% ethyl acetate in n-hexane giving the title compound as an oil;

reactant | (R)-2-(3,4-dihydroxyphenyl)propylcarbamic acid, t-butyl ester | OC=1C=C(C=CC1O)[C@H](CNC(OC(C)(C)C)=O)C | C14H21NO4
reactant | potassium carbonate | 12 mMol, 1.66 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl dibromomalonate | 4 mMol, 1.27 g | BrC(C(=O)OCC)(C(=O)OCC)Br | C7H10Br2O4
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | (R)-5-[N-(t-Butyloxycarbonyl)-2-aminopropyl]-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC2=C(OC(O2)(C(=O)OCC)C(=O)OCC)C=C1)C | C21H29NO8
